US06784317B2
Into a 100-mL SUS316 shaking autoclave, were charged 10 g (0.1 mol) of triethylamine and 59 g (0.5 mol) of methyl 2-hydroxyisobutyrate as a quaternizing agent, and the autoclave was shaken. After the contents of the autoclave reached 120° C., the temperature was kept there for 8 h to proceed the reaction. The reaction pressure was 0.1 MPa. After the reaction was completed, the reaction liquid was cooled and distilled to remove low-boiling components, thereby obtaining triethylmethylammonium 2-hydroxyisobutyrate at 87.4 mol % yield based on triethylamine. No decomposed product of methyl 2-hydroxyisobutyrate was detected in the gas chromatographic analysis on the distillate.

reactant | triethylamine | 0.1 mol, 10 g | C(C)N(CC)CC | C6H15N
reactant | methyl 2-hydroxyisobutyrate | 0.5 mol, 59 g | OC(C(=O)OC)(C)C | C5H10O3
product | triethylmethylammonium 2-hydroxyisobutyrate | OC(C(=O)[O-])(C)C.C(C)[N+](C)(CC)CC | InChI=1S/C7H18N.C4H8O3/c1-5-8(4,6-2)7-3;1-4(2,7)3(5)6/h5-7H2,1-4H3;7H,1-2H3,(H,5,6)/q+1;/p-1
